US07723337B2
2-Bromo-5-nitrophenol
To a 500 mL round bottom flask charged with 2-bromo-5-nitroanisole (11.0 g, 47 mmol) was added 100 mL of anhydrous DCM. Aluminum chloride (25 g, 150 mmol) was then added to the reaction mixture. The resulting suspension was heated overnight under nitrogen at 50° C. The reaction was allowed to cool to rt, poured over ice, and acidified to pH 4 with the addition of aqueous 10% HCl. The resulting mixture was filtered through a bed of Celite and the filtrate was transferred to a separatory funnel. The aqueous phase was extracted with methylene chloride (˜2×200 mL). The combined organic phase was dried over Na2SO4 and conc in vacuo giving the crude title compound which was purified by silica gel chromatography (330 g) using EtOAc/hexanes (1:1) as eluent to afford the title compound (8.0 g, 78%) m/z: 217.

reactant | 2-bromo-5-nitroanisole | 47 mmol, 11.0 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | Aluminum chloride | 150 mmol, 25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-nitrophenol | 8.0 g, 78% | BrC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4BrNO3
